US08039450B2
A mixture of 5-(4-Cyano-3-methoxycarbonylphenoxy)-1-hydroxy-2,1-benzoxaborole (5.25 g, 17.0 mmol) and 1 M NaOH (50 mL) in methanol (150 mL) was stirred at room temperature for 1 h. The mixture was acidified with 6 M HCl and extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography (ethyl acetate to 3:1 chloroform/methanol) followed by trituration with ethyl acetate to give 5-(3-carboxy-4-cyanophenoxy)-1-hydroxy-2,1-benzoxaborole (810 mg, 16%)

reactant | 5-(4-Cyano-3-methoxycarbonylphenoxy)-1-hydroxy-2,1-benzoxaborole | 17.0 mmol, 5.25 g | C(#N)C1=C(C=C(OC=2C=CC3=C(COB3O)C2)C=C1)C(=O)OC | C16H12BNO5
reactant | NaOH | 1 M, 50 mL | [OH-].[Na+]
reactant | HCl | 6 M | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | 5-(3-carboxy-4-cyanophenoxy)-1-hydroxy-2,1-benzoxaborole | 810 mg, 16% | C(=O)(O)C=1C=C(OC=2C=CC3=C(COB3O)C2)C=CC1C#N | C15H10BNO5
